US05385880
Synthesis of 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-phenyl-6-methylnicotinic acid (Compound No. 4)
2.0 g (0.004 mol) of 2-trimethylsilylethyl 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-phenyl-6-methylnicotinate was dissolved in 30 ml of tetrahydrofuran, and 12 ml of 1 mol aqueous solution of tetrabutylammonium fluoride was added thereto. The resultant mixture was stirred at room temperature for one night. The reaction mixture was then poured into 200 ml of water, and 1.5 ml of concentrated hydrochloric acid was added thereto. The resultant reaction mixture was extracted with ethyl acetate, and was washed with water. The resultant reaction mixture was then dried with magnesium sulfate, and the solvent was distilled off to obtain 0.9 g of the aimed product.

reactant | 2-trimethylsilylethyl 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-phenyl-6-methylnicotinate | 0.004 mol, 2.0 g | COC1=NC(=NC(=C1)OC)OC1=CC(=NC(=C1C(=O)OCC[Si](C)(C)C)C1=CC=CC=C1)C | C24H29N3O5Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(4,6-dimethoxypyrimidin-2-yloxy)-2-phenyl-6-methylnicotinic acid | 0.9 g, Yield: 60% | COC1=NC(=NC(=C1)OC)OC1=CC(=NC(=C1C(=O)O)C1=CC=CC=C1)C | C19H17N3O5
